US07820699B2
106.3 5-Chloro-thiophene-2-carboxylic acid (0.94 g) was dissolved in THF (10 ml) and CDI (0.94 g) was added. This mixture was stirred at 25° C. for 30 min. A solution of (3-amino-pyrrolidin-1-yl)-oxo-acetic acid ethyl ester trifluoroacetate (1.57 g), dissolved in THF (10 ml) and DIEA (0.89 ml), is added to the reaction mixture. The obtained reaction mixture was stirred for 18 h at 25° C. Finally, the reaction mixture was evaporated to dryness. The crude product was purified by chromatography (silica gel; gradient: CH2Cl2 to CH2Cl2/MeOH 98:2) to give {3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-oxo-acetic acid ethyl ester (1.9 g) as an orange oil. MS 331.3 ([M+H]+, Cl-isotopes).

reactant | 5-Chloro-thiophene-2-carboxylic acid | 0.94 g | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
reactant | CDI | 0.94 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | (3-amino-pyrrolidin-1-yl)-oxo-acetic acid ethyl ester trifluoroacetate | 1.57 g | FC(C(=O)O)(F)F.C(C)OC(C(=O)N1CC(CC1)N)=O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DIEA | 0.89 ml | CCN(C(C)C)C(C)C | C8H19N
product | {3-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidin-1-yl}-oxo-acetic acid ethyl ester | 1.9 g | C(C)OC(C(=O)N1CC(CC1)NC(=O)C=1SC(=CC1)Cl)=O | C13H15ClN2O4S
